US08455112B2
6.4 mmol of the dibromide (VI) and 6.4 mmol of the arylboronic acid derivative (V) (2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolane)pyridine) are dissolved in 25 ml of toluene. 0.4 mmol of Pd(PPh3)4 and 10 ml of a 4N solution of Na2CO3 are added, and the mixture is heated up to reflux under nitrogen. The reaction mixture is heated under reflux for 6 hours and cooled, the phases formed are separated, and the water phase is extracted with dichloromethane and dried. The solvent is removed under reduced pressure and the crude product is purified by means of a short silica gel column. After purification by column chromatography (dichloromethane/hexane, 2:1), the desired o-terphenyl derivative is obtained in from 40 to 50% yield.

reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.4 mmol | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | o-terphenyl | 40 to 50% yield | C1(=CC=CC=C1)C=1C(=CC=CC1)C1=CC=CC=C1 | C18H14
